US07253174B2
Synthesis of 3-[6-[(2,2-Dimethyl-propyl)-methyl-amino]-2-(1-methyl-piperidin-4-yloxy)-5-nitro-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide
1-Methyl-piperidin-4-ol (56 mg, 0.5 mmol) was dissolved in 2 mL of DMSO. To the solution was added potassium tert-butoxide (56 mg, 0.5 mmol). The solution was stirred at room temperature for 1 h. The solution was then added to a solution of 3-{6-[(2,2-Dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-5-nitro-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide (4 mg, 0.01 mmol) in 0.5 mL of DMSO. The solution was stirred at 80° C. for 3 h, and extracted with ethyl acetate and water. The organic layer was washed with water, brine, dried over MgSO4, and evaporated under vacuum. The residue was purified by semi-preparative hplc column to afford 0.7 mg of the product (Yield: 16%). MS (m/z) calcd for C25H37N7O4 (MH+), 500.2, found, 500.1.

reactant | 1-Methyl-piperidin-4-ol | 0.5 mmol, 56 mg | CN1CCC(CC1)O | C6H13NO
reactant | potassium tert-butoxide | 0.5 mmol, 56 mg | CC(C)([O-])C.[K+]
reactant | 3-{6-[(2,2-Dimethyl-propyl)-methyl-amino]-2-methanesulfonyl-5-nitro-pyrimidin-4-ylamino}-4,N-dimethyl-benzamide | 0.01 mmol, 4 mg | CC(CN(C1=C(C(=NC(=N1)S(=O)(=O)C)NC=1C=C(C(=O)NC)C=CC1C)[N+](=O)[O-])C)(C)C | C20H28N6O5S
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 3-[6-[(2,2-Dimethyl-propyl)-methyl-amino]-2-(1-methyl-piperidin-4-yloxy)-5-nitro-pyrimidin-4-ylamino]-4,N-dimethyl-benzamide | 0.7 mg, Yield: 16% | CC(CN(C1=C(C(=NC(=N1)OC1CCN(CC1)C)NC=1C=C(C(=O)NC)C=CC1C)[N+](=O)[O-])C)(C)C | C25H37N7O4
